US20010053783A1
8-Amino-3-methyl-1,2,3,4-tetrahydroquinoline
Platinum oxide (0.375 g) was added to a solution of 3-methyl-8-nitroquinoline (12.47 g, 66.3 mmol) in acetic acid (150 ml) and hydrogenated at 60 psi for 24 hours.

reactant | 3-methyl-8-nitroquinoline | 66.3 mmol, 12.47 g | CC=1C=NC2=C(C=CC=C2C1)[N+](=O)[O-] | C10H8N2O2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | Platinum oxide | 0.375 g | [Pt]=O
product | 8-Amino-3-methyl-1,2,3,4-tetrahydroquinoline | NC=1C=CC=C2CC(CNC12)C | C10H14N2
